US06093696
N-Acetyl-D-thioproline-L-tyrosine tert.butyl ester
EDC (4.22 g, 22 mmol) was added to a solution of N-acetyl-D-thioproline (3.50 g, 20 mmol), tyrosine tert.butyl ester (4.74 g, 20 mmol), HOBT (2.97 g, 22 mmol) and NMM (2.42 ml, 22 mmol) in DMF (80 ml) at 0°. The mixture was stirred at room temperature overnight. The DMF was evaporated in vacuo and the residue dissolved in ethyl acetate (600 ml) and water (50 ml). The organic phase was washed with 10% citric acid (150 ml), saturated aqueous NaHCO3 (150 ml), water (150 ml) and brine (150 ml), dried (Na2SO4) and evaporated in vacuo to give the title compound as an off-white solid (7.39 g, 94%); δH (DMSO-d6, 300K) (2 rotameric species observed) 9.17 (1H, br s, ArCH), 8.43 (3, J 8.0 Hz), and 8.09 (d, J 8.0 Hz) together (1H, CONH), 6.98 (2H, t, J 7.6, ArH), 6.64 (2H, d, J 7.3, ArH), 4.81-4.67 (m), 4.47 (d, J 8.7 Hz) and 4.35-4.21 (m), together (4H, CHα-tyr, CHαthiopro and NCH2S), 3.32 (dd, J 7.2, 11.6 Hz), 3.17 (dd, J 7.5, 11.6 Hz), 2.99-2.72 (m) together (4H, CH2Ar+CHCH2S), 2.06 (s) and 1.84 (s) together (3H, CH3CO) and 1.36 (9H, S, CO2tBu); m/z (ESI, 15V) 395 (M+ +1).

reactant | EDC | 22 mmol, 4.22 g
reactant | N-acetyl-D-thioproline | 20 mmol, 3.50 g | C(C)(=O)N1[C@@H](C(=O)O)CSC1 | C6H9NO3S
reactant | tyrosine tert.butyl ester | 20 mmol, 4.74 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | HOBT | 22 mmol, 2.97 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 22 mmol, 2.42 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | N-Acetyl-D-thioproline L-tyrosine tert.butyl ester | 7.39 g, 94% | C(C)(=O)N1[C@@H](C(=O)O)CSC1.C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | InChI=1S/C13H19NO3.C6H9NO3S/c1-13(2,3)17-12(16)11(14)8-9-4-6-10(15)7-5-9;1-4(8)7-3-11-2-5(7)6(9)10/h4-7,11,15H,8,14H2,1-3H3;5H,2-3H2,1H3,(H,9,10)/t11-;5-/m01/s1
